US07576074B2
N-(3,4-Dichloro-phenyl)-6-(methyloxy)-7-{[(3aR,6aS) -octahydrocyclopenta-[c]pyrrol-5-yl]oxy}quinazolin-4 amine hydrochloride (0.20 g, 0.42 mmol) was solubilized in formic acid (5.0 mL) and 37% aqueous formaldehyde (1 mL) was added. The solution was heated to 95° C. for 12 h. The reaction mixture was concentrated in vacuo. The residue was taken up in a mixture of 10% methanol in ethyl acetate (100 mL) and washed with saturated aqueous sodium bicarbonate (2×30 mL) and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by HPLC (reverse-phase, acetonitrile/water/0.1% TFA). Upon removal of solvent the product was taken up in a mixture of 10% methanol in ethyl acetate (100 mL) and washed with saturated aqueous sodium bicarbonate (2×30 mL) and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated then the product was taken up in methanol and treated with 4.0 M hydrogen chloride in dioxane (1 eq.). Removal of solvent in vacuo provided 116 mg (56%) of N-(3,4-dichlorophenyl)-7-({[(3aR,6aS)-2-methyloctahydrocyclopenta[c]pyrrol-5-yl]}oxy)-6-(methyloxy)quinazolin-4-amine hydrochloride. 1H NMR (400 MHz, d6-DMSO): 11.05 (bs, 1H), 8.90 (s, 1H), 8.44 (s, 1H), 8.18 (d, 1H), 7.84 (dd, 1H), 7.76 (s, 1H), 7.48 (s, 1H), 5.30 (m, 1H), 4.00 (s, 3H), 3.35 (m, 2H), 2.90 (m, 2H), 2.24 (m, 5H), 2.10 (m, 2H), 1.24 (m, 2H). MS (EI) for C23H24Cl2N4O2: 459, 461 (MH+).

reactant | N-(3,4-Dichloro-phenyl)-6-(methyloxy)-7-{[(3aR,6aS) -octahydrocyclopenta-[c]pyrrol-5-yl]oxy}quinazolin-4 amine hydrochloride | 0.42 mmol, 0.20 g | Cl.ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OC1C[C@@H]2[C@@H](CNC2)C1
reactant | formaldehyde | 1 mL | C=O | CH2O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | dioxane | 1 eq. | O1CCOCC1 | C4H8O2
solvent | formic acid | 5.0 mL | C(=O)O | CH2O2
product | N-(3,4-dichlorophenyl)-7-({[(3aR,6aS)-2-methyloctahydrocyclopenta[c]pyrrol-5-yl]}oxy)-6-(methyloxy)quinazolin-4-amine hydrochloride | 116 mg, 56% | Cl.ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OC1C[C@@H]2[C@@H](CN(C2)C)C1 | InChI=1S/C23H24Cl2N4O2.ClH/c1-29-10-13-5-16(6-14(13)11-29)31-22-9-20-17(8-21(22)30-2)23(27-12-26-20)28-15-3-4-18(24)19(25)7-15;/h3-4,7-9,12-14,16H,5-6,10-11H2,1-2H3,(H,26,27,28);1H/t13-,14+,16?;
